US06489344B1
{2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[4-(4-bromo-2-chlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amine was prepared from 4-bromo-2-chlorolbenzoyl chloride and 2-amino-6-chloro-3-nitropyridine using the general method for 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile.

reactant | 4-bromo-2-chlorolbenzoyl chloride | BrC=1C=C([ClH]C1)C1=CC=CC=C1C(=O)Cl | C11H7BrCl2O
reactant | 2-amino-6-chloro-3-nitropyridine | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18Cl2N8
product | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[4-(4-bromo-2-chlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amine | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Br)Cl)C=1NC=C(N1)C)[N+](=O)[O-] | C21H19BrClN9O2
